US05571843
5,6-dimethoxy-2-(4-phenyl semicarbazono)-indan-1,3-dione, monohydrate
5,6-dimethoxyindan-1,2,3-trione, monohydrate, 4-phenyl semicarbazide hydrochloride

reactant | 5,6-dimethoxyindan-1,2,3-trione, monohydrate | O.COC=1C=C2C(C(C(C2=CC1OC)=O)=O)=O
reactant | 4-phenyl semicarbazide hydrochloride | Cl.C1(=CC=CC=C1)NC(NN)=O
product | 5,6-dimethoxy-2-(4-phenyl semicarbazono)-indan-1,3-dione, monohydrate | O.COC=1C=C2C(C(C(C2=CC1OC)=O)=NNC(=O)NC1=CC=CC=C1)=O | InChI=1S/C18H15N3O5.H2O/c1-25-13-8-11-12(9-14(13)26-2)17(23)15(16(11)22)20-21-18(24)19-10-6-4-3-5-7-10;/h3-9H,1-2H3,(H2,19,21,24);1H2
